2166-05-30 03:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 103.9
F - [**2166-5-29**] 06:55 AM
   [**2166-5-29**]
   - a line and IJ placed
   - levophed to keep maps > 60
   - percutaneous gall bladder drain placed by IR at bedside
   - bile fluid sent for gram stain and culture --> prelim with mixed
   organisms gpc, gnr, gpr
   [**5-30**]
   -0630: Pt intubated [**12-30**] work of breathing and poor ventilation. ABG pH
   7.21 pCO2 53 pO2 70 HCO3 22
   Allergies:
   Metoprolol
   Wheezing;
   Last dose of Antibiotics:
   Piperacillin - [**2166-5-29**] 06:00 AM
   Vancomycin - [**2166-5-29**] 06:30 AM
   Daptomycin - [**2166-5-29**] 09:49 AM
   Ciprofloxacin - [**2166-5-29**] 11:31 AM
   Cefipime - [**2166-5-29**] 02:50 PM
   Metronidazole - [**2166-5-29**] 11:17 PM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Acetaminophen
   Atorvastatin
   Calcium Acetate
   CefePIME
   Chlorhexidine Gluconate 0.12% Oral Ciprofloxacin
   Daptomycin
   Docusate Sodium
   Fentanyl Citrate
   Finasteride
   Heparin
   Insulin
   Ipratropium Bromide Neb
   Lactulose
   MetRONIDAZOLE
   Norepinephrine
   Ondansetron
   Pantoprazole
   Pneumococcal Vac Polyvalent
   Senna
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-5-30**] 03:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.2
C (104.4
   Tcurrent: 37.2
C (99
   HR: 96 (90 - 132) bpm
   BP: 101/38(58) {73/34(-21) - 138/88(92)} mmHg
   RR: 33 (14 - 43) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 18 (6 - 28)mmHg
   Total In:
                                                                  6,333 mL
                                                                    624 mL
   PO:
                                                                    810 mL
   TF:
   IVF:
                                                                  5,523 mL
                                                                    624 mL
   Blood products:
   Total out:
                                                                    271 mL
                                                                     25 mL
   Urine:
                                                                    171 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
                                                                    100 mL
   Balance:
                                                                  6,062 mL
                                                                    599 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.21/53/70/22
   Physical Examination
   General: Intubated and sedated.
   HEENT: Sclera anicteric. MM mildly dry, bilat cataracts
   Neck: supple, JVP not elevated, no LAD, Left IJ in place without
   erythema
   Lungs: Bilat basilar rales.  Breath sounds decreased at dependent
   areas.
   CV: RRR. murmur, heard best at axilla II/IV..
   Abdomen: Tense, distended, tympanitic. hypoactive BS.  RUQ tenderness
   to palp, +guarding, no rebound.
   Ext: 1+ bilat LE edema.  Well perfused.
   GU: No external lesions.  Foley in place.
   Labs / Radiology
   180 K/uL
   8.5 g/dL
   143 mg/dL
   4.8 mg/dL
   19 mEq/L
   4.2 mEq/L
   95 mg/dL
   102 mEq/L
   138 mEq/L
   28.6 %
   24.4 K/uL
                             [**2166-5-29**]  07:06 AM
                             [**2166-5-29**]  08:34 AM
                             [**2166-5-29**]  11:22 AM
                             [**2166-5-29**]  02:28 PM
                             [**2166-5-29**]  03:53 PM
                             [**2166-5-29**]  08:06 PM
                             [**2166-5-29**]  10:40 PM
                             [**2166-5-29**]  11:12 PM
                             [**2166-5-30**]  02:24 AM
                             [**2166-5-30**]  02:30 AM
   WBC
   19.9
   24.4
   Hct
   27.5
   28.6
   Plt
   171
   180
   Cr
   4.4
   4.8
   4.8
   TCO2
   22
   24
   20
   21
   20
   20
   19
   Glucose
   155
   155
   143
   Other labs: PT / PTT / INR:13.8/37.2/1.2, CK / CKMB /
   Troponin-T:61//0.06, ALT / AST:72/111, Alk Phos / T Bili:193/2.5,
   Differential-Neuts:76.0 %, Band:12.0 %, Lymph:12.0 %, Mono:0.0 %,
   Eos:0.0 %, Lactic Acid:2.3 mmol/L, LDH:288 IU/L, Ca++:7.3 mg/dL,
   Mg++:3.0 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   Assessment and Plan: This is an 84M with dCHF, BPH, prior admissions
   for urosepsis, VRE carrier who is admitted to MICU with rigors, fevers,
   tachycardia, tachypnea
   # Sepsis:  Pt with high fevers, rigors, tachypnea, tachycardia. WBC
   initially 21, now 24.4.  Abd CT shows air in gallbladder wall.  Bedside
   percutaneous gallbladder drain placed by IR with purulent fluid
   aspirated.  Initial gram stain showed gm+ rods & cocci as well as gm
   rods with 3+ leukocytes.   Pts DFA was negative.  Pt became hypotensive
   during the day on [**5-29**] and levophed was initiated.
   - Awaiting sensitivities to narrow abx coverage.  Currently on Cipro,
   Flagyl, Dapto, Cefepime
   -tylenol and cooling blanket for fever
   -Expanded coverage with vanc and zosyn, added daptomycin for VRE until
   cultures result
   -f/u blood and urine cx, obtain sputum and stool cx as well
   -Serial ABGs
   -Surgical c/s for abd eval.
   -consider abd CT when more stable.
   # Respiratory Failure:  Secondary to Sepsis and volume overload.  Pt
   intubated [**5-30**] at ~0630 [**12-30**] increased work of breathing and
   hypoventilation.  ABG as above.  CXR shows tube at 67mm above carina
   and tube advanced 20mm.
   -
   # Stage V renal disease/ Acute on Chronic renal failure: Not yet on HD
   as outpatient followed by Dr. [**Last Name (STitle) 8810**] at [**Last Name (un) 276**].  Patient has become
   anuric during this admission with BUN/Cr currently 95/4.8 up from
   admission on [**5-28**] of 85/3.9.  Likely due to hypotension.
   -c/s renal in am
   -renally dose meds
   -Pt may need HD in house if fluid overload from resuscitation.
   -renagel/nephrocaps
   # dCHF - [**Month (only) 60**] be developing fluid overload with resuscitation but
   oxygenating tolerably thus far.  Per family may be intubated.
   - Patient intubated [**12-30**] work of breathing and hypoventilation in the
   setting of fluid overload and sepsis.
   - Pt requiring levophed at present
   # BPH
   -hold tamsulosin, continue finasteride
   # DM2 - hold glyburide. ISS
   # FEN: NPO, IV NS. Lytes prn
   ICU Care
   Nutrition:  NPO
   Glycemic Control:  SSI
   Lines:
   20 Gauge - [**2166-5-29**] 07:08 AM
   Multi Lumen - [**2166-5-29**] 02:51 PM
   Arterial Line - [**2166-5-29**] 08:15 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer:  Famotidine
   VAP:  HOB >30 deg.  Oral Care
   Comments:
   Communication: With Wife/Daughter
   [**Name (NI) 66**] status:  Full
   Disposition: MICU

2166-05-31 06:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2166-5-31**] 03:00 AM
   [**5-30**]
   - 0630 Pt intubated [**12-30**] work of breathing, hypoventilation and volume
   overload.
   - Hypotension responsive to fluid boluses.
   - Surgery actively following patient and active discussions regarding
   surgical intervention.
   - 2300 Checked DIC panel ->negative
   [**5-31**]
   -0130 Pt hypotensive despite fluid bolus and increasing levophed.
   Bolused with additional NS with little effect.
   Allergies:
   Metoprolol
   Wheezing;
   Last dose of Antibiotics:
   Piperacillin - [**2166-5-29**] 06:00 AM
   Vancomycin - [**2166-5-29**] 06:30 AM
   Daptomycin - [**2166-5-29**] 09:49 AM
   Cefipime - [**2166-5-29**] 02:50 PM
   Ciprofloxacin - [**2166-5-30**] 01:00 PM
   Metronidazole - [**2166-5-31**] 12:12 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.24 mcg/Kg/min
   Other ICU medications:
   Acetaminophen
   Albuterol Inhaler
   Atorvastatin
   Calcium Acetate
   CefePIME
   Chlorhexidine Gluconate 0.12% Oral Daptomycin
   Docusate Sodium (Liquid)
   Finasteride
   Heparin
   Insulin
   Ipratropium Bromide Neb
   Ipratropium Bromide MDI MetRONIDAZOLE (FLagyl)
   MethylPREDNISolone Sodium Succ Norepinephrine
   Ondansetron
   Pantoprazole
   Phenylephrine
   Senna
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-5-31**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (96.9
   HR: 75 (69 - 93) bpm
   BP: 118/53(73) {74/39(53) - 120/71(75)} mmHg
   RR: 18 (17 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 19 (10 - 19)mmHg
   Total In:
                                                                  6,060 mL
                                                                  2,317 mL
   PO:
   TF:
   IVF:
                                                                  5,990 mL
                                                                  1,942 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    181 mL
                                                                     47 mL
   Urine:
                                                                    101 mL
                                                                     47 mL
   NG:
                                                                     40 mL
   Stool:
   Drains:
                                                                     40 mL
   Balance:
                                                                  5,879 mL
                                                                  2,270 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 98%
   ABG: 7.34/44/108/24/-2
   Ve: 9.3 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General: Elderly Lebanese man, intubated and sedated.
   HEENT: Sclera anicteric. MM mildly dry.
   Neck: supple, JVP not elevated, no LAD
   Lungs: Bilateral rales with some wheezes throughout
   CV: Tachycardic, regular. Likely systolic murmur, heard best at axilla,
   difficult to characterise in setting of tachycardia.
   Abdomen: Tense, distended, tympanitic. No BS.  RUQ/RLQ tenderness to
   palp, + guarding, no rebound.
   Ext: No edema.  Cool and pale..
   GU: No external lesions.  Foley in place.
   Labs / Radiology
   121 K/uL
   7.3 g/dL
   112 mg/dL
   5.1 mg/dL
   24 mEq/L
   4.6 mEq/L
   99 mg/dL
   99 mEq/L
   135 mEq/L
   23.9 %
   16.5 K/uL
        [image002.jpg]
                             [**2166-5-30**]  02:30 AM
                             [**2166-5-30**]  05:42 AM
                             [**2166-5-30**]  08:08 AM
                             [**2166-5-30**]  12:31 PM
                             [**2166-5-30**]  01:07 PM
                             [**2166-5-30**]  07:45 PM
                             [**2166-5-30**]  08:16 PM
                             [**2166-5-30**]  10:04 PM
                             [**2166-5-31**]  02:45 AM
                             [**2166-5-31**]  03:04 AM
   WBC
   22.3
   16.5
   Hct
   25.7
   25.4
   23.9
   Plt
   144
   156
   121
   Cr
   4.8
   5.1
   5.1
   TropT
   0.28
   TCO2
   19
   22
   22
   22
   25
   25
   Glucose
   [**Telephone/Fax (3) 9500**]12
   Other labs: PT / PTT / INR:14.7/39.2/1.3, CK / CKMB /
   Troponin-T:157/10/0.28, ALT / AST:85/121, Alk Phos / T Bili:179/1.6,
   Amylase / Lipase:89/18, Differential-Neuts:88.0 %, Band:4.0 %,
   Lymph:3.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:840 mg/dL, Lactic
   Acid:2.1 mmol/L, Albumin:2.4 g/dL, LDH:271 IU/L, Ca++:6.3 mg/dL,
   Mg++:2.9 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   Assessment and Plan: This is an 84M with dCHF, BPH, prior admissions
   for urosepsis, VRE carrier who is admitted to MICU with rigors, fevers,
   tachycardia, tachypnea
   # Sepsis:  Pt with high fevers, rigors, tachypnea, tachycardia. WBC
   initially 21, now 16.5 from 22.3 yesterday afternoon.  Abd CT shows air
   in gallbladder wall.  Bedside percutaneous gallbladder drain placed by
   IR [**5-29**] with purulent fluid aspirated.  Initial gram stain showed gm+
   rods & cocci as well as gm
 rods with 3+ leukocytes.   Pts DFA was
   negative.  Urine Cx also negative.  Pt became hypotensive during the
   day on [**5-29**] and levophed was initiated.  His hypotension has persisted
   after intubation on [**5-30**] requiring higher doses of levophed and
   continued fluid boluses.

Septic Source / Cholecystitis
         - Awaiting sensitivities to narrow abx coverage.  Currently on
   Cipro, Flagyl, Dapto, Cefepime.  Will D/C cipro.
         -f/u blood and urine cx, obtain sputum and stool cx as well
         - Surgery actively following patient and appreciate their
   involvement.  If patient deteriorates further may require ex-lap and
   open cholecycstecomy.

 Hypotension: Likely result of sepsis coupled with cardiac injury.
         - Continue Fluid resuscitation until hypotension becomes
   refractory to additional fluid
         - Continue escalating levophed PRN to maintain MAP > 60
         - [**Month (only) 60**] add additional pressor (neosynephrine) as needed to achieve
   MAP goal.  Would not add dobutamine in light of elevated Trop.
          - Was started on stress dose steroids (Solumedrol 125 mg IV
   q8).  If cortisol normal will d/c steroids.
   #Cardiac [**Last Name (un) **] / NSTEMI: Troponin elevation concerning, however given
   patients current status would not treat at this time and will cycle
   enzymes.  If continues to rise will c/s cardiology.
   # Respiratory Failure:  Secondary to Sepsis and volume overload.  Pt
   intubated [**5-30**] at ~0630 [**12-30**] increased work of breathing and
   hypoventilation.  ABG as above.  As this is a direct result of both the
   primary pathology and the treatment anticipate ability to reverse and
   extubated once septic shock treated.
   -
   # Stage V renal disease/ Acute on Chronic renal failure: Not yet on HD
   as outpatient followed by Dr. [**Last Name (STitle) 8810**] at [**Last Name (un) 276**].  Patient has become
   anuric during this admission with BUN/Cr currently 99/5.1 up from
   admission on [**5-28**] of 85/3.9.  Likely due to hypotension.
   -Appreciate renal involvement.
   - Continue to renally dose meds
   -Pt may need HD in house [**12-30**] fluid overload from resuscitation and to
   manage electrolyte derangements.
   -renagel/nephrocaps
   # dCHF - [**Month (only) 60**] be developing fluid overload with resuscitation but
   oxygenating well thus far.
    - Patient intubated [**12-30**] work of breathing and hypoventilation in the
   setting of fluid overload and sepsis.
   - Pt requiring levophed at present
   # BPH
   -hold tamsulosin, continue finasteride
   # DM2 - hold glyburide. ISS
   # FEN: NPO, IV NS. Lytes prn
   ICU Care
   Nutrition: NPO
   Glycemic Control:  SSI
   Lines:
   20 Gauge - [**2166-5-29**] 07:08 AM
   Multi Lumen - [**2166-5-29**] 02:51 PM
   Arterial Line - [**2166-5-29**] 08:15 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer: PPI
   VAP:  HOB >30, Oral Care
   Comments:
   Communication: With Patients Wife/Daughter Comments:
   [**Name2 (NI) 66**] status: Full code
   Disposition:MICU

2166-06-01 05:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2166-5-31**] 06:00 PM
   -pt got MRCP - showed collapsed gallbladder with drain inside - no
   surrounding fluid collections
   Allergies:
   Metoprolol
   Wheezing;
   Last dose of Antibiotics:
   Piperacillin - [**2166-5-29**] 06:00 AM
   Vancomycin - [**2166-5-29**] 06:30 AM
   Ciprofloxacin - [**2166-5-30**] 01:00 PM
   Daptomycin - [**2166-5-31**] 11:00 AM
   Cefipime - [**2166-5-31**] 02:00 PM
   Metronidazole - [**2166-6-1**] 12:20 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2166-5-31**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2166-6-1**] 12:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-6-1**] 05:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (96.9
   HR: 56 (56 - 73) bpm
   BP: 95/44(62) {95/44(62) - 147/79(98)} mmHg
   RR: 18 (15 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
    CVP: 13 (12 - 17)mmHg
   Total In:
                                                                  3,467 mL
                                                                    748 mL
   PO:
   TF:
   IVF:
                                                                  2,962 mL
                                                                    248 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    511 mL
                                                                    128 mL
   Urine:
                                                                    511 mL
                                                                    128 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,956 mL
                                                                    620 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 341
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.36/36/122/20/-4
   Ve: 9 L/min
   PaO2 / FiO2: 305
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   167 K/uL
   8.5 g/dL
   212 mg/dL
   5.9 mg/dL
   20 mEq/L
   5.0 mEq/L
   122 mg/dL
   102 mEq/L
   136 mEq/L
   27.3 %
   16.0 K/uL
        [image002.jpg]
                             [**2166-5-30**]  07:45 PM
                             [**2166-5-30**]  08:16 PM
                             [**2166-5-30**]  10:04 PM
                             [**2166-5-31**]  02:45 AM
                             [**2166-5-31**]  03:04 AM
                             [**2166-5-31**]  11:14 AM
                             [**2166-5-31**]  09:42 PM
                             [**2166-5-31**]  09:52 PM
                             [**2166-6-1**]  04:02 AM
                             [**2166-6-1**]  04:21 AM
   WBC
   16.5
   18.2
   18.5
   16.0
   Hct
   25.4
   23.9
   28.2
   28.4
   27.3
   Plt
   156
   121
   151
   177
   167
   Cr
   5.1
   5.1
   5.6
   5.8
   5.9
   TropT
   0.28
   0.31
   TCO2
   25
   25
   22
   21
   Glucose
   [**Telephone/Fax (3) 9508**]48
   188
   212
   Other labs: PT / PTT / INR:15.5/38.8/1.4, CK / CKMB /
   Troponin-T:143/8/0.31, ALT / AST:84/111, Alk Phos / T Bili:274/1.6,
   Amylase / Lipase:76/28, Differential-Neuts:88.0 %, Band:4.0 %,
   Lymph:3.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:944 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.2 g/dL, LDH:261 IU/L, Ca++:6.3 mg/dL,
   Mg++:3.2 mg/dL, PO4:8.1 mg/dL
   Assessment and Plan
   This is an 84M with dCHF, BPH, prior admissions for urosepsis, VRE
   carrier who is admitted to MICU with rigors, fevers, tachycardia,
   tachypnea
   # Sepsis
  abd CT showed air in gallbladder wall, bedside percutaneous
   gallbladder drain placed by IR [**5-29**]
   - MRCP showed collapsed gallbladder with drain inside - no surrounding
   fluid collections
   - currently on Flagyl, Dapto, Cefepime
   - awaiting sensitivities
   -f/u blood and urine cx, obtain sputum and stool cx as well
         - Surgery actively following patient and appreciate their
   involvement.  If patient deteriorates further may require ex-lap and
   open cholecycstecomy.
   - hypotension: Likely result of sepsis coupled with cardiac injury.
         - Continue Fluid resuscitation until hypotension becomes
   refractory to additional fluid
         - Continue escalating levophed PRN to maintain MAP > 60
         - [**Month (only) 60**] add additional pressor (neosynephrine) as needed to achieve
   MAP goal.  Would not add dobutamine in light of elevated Trop.
          - Was started on stress dose steroids (Solumedrol 125 mg IV
   q8).  If cortisol normal will d/c steroids.
   #Cardiac [**Last Name (un) **] / NSTEMI: Troponin elevation concerning, however given
   patients current status would not treat at this time and will cycle
   enzymes.  If continues to rise will c/s cardiology.
   # Respiratory Failure:  Secondary to Sepsis and volume overload.  Pt
   intubated [**5-30**] at ~0630 [**12-30**] increased work of breathing and
   hypoventilation.  ABG as above.  As this is a direct result of both the
   primary pathology and the treatment anticipate ability to reverse and
   extubated once septic shock treated.
   -
   # Stage V renal disease/ Acute on Chronic renal failure: Not yet on HD
   as outpatient followed by Dr. [**Last Name (STitle) 8810**] at [**Last Name (un) 276**].  Patient has become
   anuric during this admission with BUN/Cr currently 99/5.1 up from
   admission on [**5-28**] of 85/3.9.  Likely due to hypotension.
   -Appreciate renal involvement.
   - Continue to renally dose meds
   -Pt may need HD in house [**12-30**] fluid overload from resuscitation and to
   manage electrolyte derangements.
   -renagel/nephrocaps
   # dCHF - [**Month (only) 60**] be developing fluid overload with resuscitation but
   oxygenating well thus far.
    - Patient intubated [**12-30**] work of breathing and hypoventilation in the
   setting of fluid overload and sepsis.
   - Pt requiring levophed at present
   # BPH
   -hold tamsulosin, continue finasteride
   # DM2 - hold glyburide. ISS
   # FEN: NPO, IV NS. Lytes prn
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2166-5-29**] 02:51 PM
   Arterial Line - [**2166-5-29**] 08:15 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2166-06-02 01:51:00 Physician Resident Progress Note
Chief Complaint: sepsis [**12-30**] emphysematous gall bladder
   24 Hour Events:
   - MRCP with no abnormality in pancreatic duct, no biliary dilation, no
   choledocholithiasis, somewhat poor quality study
   - trying to hold off on dialysis at this time
   - decreased his RR with good ABG --> will try PS
   - doing well with PS 8/5 and 35% FIO2
   - diuresing poorly (10-20 cc/hr)
   - will plan to put on PS 5/5 in early AM
   - off sedation
   - drain put out 400 cc fluid
   Allergies:
   Metoprolol
   Wheezing;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2166-5-30**] 01:00 PM
   Daptomycin - [**2166-5-31**] 11:00 AM
   Metronidazole - [**2166-6-1**] 08:00 AM
   Cefipime - [**2166-6-1**] 02:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2166-6-1**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2166-6-1**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-6-2**] 01:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.7
C (96.3
   HR: 72 (53 - 72) bpm
   BP: 128/60(85) {92/44(62) - 128/84(100)} mmHg
   RR: 17 (11 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 15 (11 - 15)mmHg
   Total In:
                                                                  1,473 mL
                                                                     36 mL
   PO:
   TF:
   IVF:
                                                                    793 mL
                                                                     36 mL
   Blood products:
   Total out:
                                                                    478 mL
                                                                     15 mL
   Urine:
                                                                    378 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
                                                                    100 mL
   Balance:
                                                                    995 mL
                                                                     21 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 511 (511 - 527) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 341
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: 7.35/40/124/20/-3
   Ve: 7.4 L/min
   PaO2 / FiO2: 354
   Physical Examination
   General: intubated, sedated, slightly more responsive to voice
   Chest
 clear BS w/o wheezes
   CV
 regular rate, rhythm, no m/r/g
   Abd
 quiet, moderately distended, tympanitic, perc drain in place
   Ext - [**12-31**]+ edema
   Labs / Radiology
   176
   9.2
   165
   6.1
   18
   4.5
   135
   102
   136
   30.8
   24.8
        [image002.jpg]
                             [**2166-5-31**]  02:45 AM
                             [**2166-5-31**]  03:04 AM
                             [**2166-5-31**]  11:14 AM
                             [**2166-5-31**]  09:42 PM
                             [**2166-5-31**]  09:52 PM
                             [**2166-6-1**]  04:02 AM
                             [**2166-6-1**]  04:21 AM
                             [**2166-6-1**]  07:12 PM
                             [**2166-6-1**]  08:35 PM
                             [**2166-6-1**]  09:37 PM
   WBC
   16.5
   18.2
   18.5
   16.0
   Hct
   23.9
   28.2
   28.4
   27.3
   Plt
   121
   151
   177
   167
   Cr
   5.1
   5.6
   5.8
   5.9
   TropT
   0.28
   0.31
   TCO2
   25
   22
   21
   23
   24
   23
   Glucose
   112
   148
   188
   212
   Other labs: PT / PTT / INR:15.5/38.8/1.4, CK / CKMB /
   Troponin-T:143/8/0.31, ALT / AST:84/111, Alk Phos / T Bili:274/1.6,
   Amylase / Lipase:76/28, Differential-Neuts:88.0 %, Band:4.0 %,
   Lymph:3.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:944 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:261 IU/L, Ca++:6.3 mg/dL,
   Mg++:3.2 mg/dL, PO4:8.1 mg/dL
   T bili improving
   Assessment and Plan
   84 y/o male with CHF, prior admissions for urosepsis, VRE carrier who
   is admitted to MICU with rigors, fevers, tachycardia, tachypnea,
   emphysematous gall bladder.
   # Sepsis
  abdominal CT showed air in gallbladder wall, bedside
   percutaneous gallbladder drain placed by IR [**5-29**]
   - MRCP showed collapsed gallbladder with drain inside - no surrounding
   fluid collections or ductal dilation
   - currently on flagyl, dapto, cefepime (DAY 5)
 awaiting sensitivities
   - f/u cultures
 blood cx [**5-29**] growing GNR in one bottle, stool negative
   for campylobacter and c.diff, sputum cs contaminant, urine cx growing
   <[**Numeric Identifier 182**] organisms/ml
   - appreciate surgery recs
   - continue fluids for hypotension
 pt remains off pressors and not
   requiring fluid boluses
   #Cardiac Enzyme Elevation
   - troponin rise to 0.31, felt to be c/w demand ischemia in the setting
   of renal failure, which would prevent clearing of the troponin
   # Respiratory Failure
   - continue to monitor ABGs
   - oxygenating and ventilating well on PS 5/5
   - have switched to bolus sedation in preparation for possible
   extubation today
   - flagyl changed to PO
 this will give pt less fluid load and make it
   easier to wean him from vent
   # Acute on Chronic Renal Failure
   - Appreciate renal recommendations
   - Pt making 10-20 cc of urine per hr
   - Continue to renally dose meds, but keep in mind that we will have to
   stop this when the pts GFR increases
   - Give pt aluminum hydroxide 30 TID instead of renagel (renagel does
   not work with TFs) for hyperphosphatemia
   # CHF
   -continue to monitor CXR and clinical exam for signs of fluid overload
   # BPH
   -hold tamsulosin, continue finasteride
   # DM2
   - hold glyburide, continue ISS
   # FEN: NPO, IV NS. Lytes prn. Consider TF in next few days
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2166-5-29**] 02:51 PM
   Arterial Line - [**2166-5-29**] 08:15 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: protonix
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   Although incr WBC is a concern, overall he is improving.  Will discuss
   abx with ID
 one question is whether he still needs dapto?  Creat is
   rising
 sl incr in UO but suspect he has reached the point at which it
   makes sense to start HD.  We are weaning vent.  He is off sedation and
   we will try an SBT.  Checking C diff. Will start  tube feeds today with
   likely extubation tomorrow.

2166-06-03 06:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Goal 2L negative for the day -> will likely need HD in next 24-48 hrs
   as he is not at goal I/O
   - ID consulted re: abx course and use of Dapto.  Rec continue dapto at
   present pending sensitivity of the Enterococcus.  Recs continue current
   abx, if decompensates would add tobramycin for dbl gm- coverage.
   Duration of abx through surgery.
   - renal recs: PhosLo 1 tab TID, use 2 amps of bicarb if bicarb is low,
   check ionized Ca.  HD likely tomorrow if diuresis not working.
   Allergies:
   Metoprolol
   Wheezing;
   Last dose of Antibiotics:
   Metronidazole - [**2166-6-1**] 08:00 AM
   Daptomycin - [**2166-6-2**] 11:00 AM
   Cefipime - [**2166-6-2**] 02:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2166-6-2**] 08:16 AM
   Furosemide (Lasix) - [**2166-6-2**] 12:45 PM
   Midazolam (Versed) - [**2166-6-2**] 02:00 PM
   Fentanyl - [**2166-6-2**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2166-6-2**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-6-3**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.3
C (95.6
   HR: 75 (64 - 76) bpm
   BP: 146/66(98) {93/51(73) - 154/148(151)} mmHg
   RR: 17 (10 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 73 kg
   Height: 65 Inch
    CVP: 14 (3 - 17)mmHg
   Total In:
                                                                  1,010 mL
                                                                    260 mL
   PO:
   TF:
                                                                     80 mL
                                                                     78 mL
   IVF:
                                                                    690 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                  1,965 mL
                                                                    670 mL
   Urine:
                                                                    895 mL
                                                                    420 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
                                                                  1,045 mL
                                                                    250 mL
   Balance:
                                                                   -955 mL
                                                                   -410 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 717 (538 - 717) mL
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 15
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.31/46/118/20/-3
   Ve: 8.9 L/min
   PaO2 / FiO2: 337
   Physical Examination
   Gen
l: no acute distress, arousable
   Chest: shallow w/o crackles
   CV: regular rate, rhythm no m/r/g
   Abd: distended but soft, tympanitic w/o tenderness
   Ext: [**11-29**]+ edema
   Labs / Radiology
   182 K/uL
   9.5 g/dL
   202 mg/dL
   6.1 mg/dL
   20 mEq/L
   3.8 mEq/L
   144 mg/dL
   102 mEq/L
   138 mEq/L
   31.2 %
   24.1 K/uL
        [image002.jpg]
                             [**2166-5-31**]  09:42 PM
                             [**2166-5-31**]  09:52 PM
                             [**2166-6-1**]  04:02 AM
                             [**2166-6-1**]  04:21 AM
                             [**2166-6-1**]  07:12 PM
                             [**2166-6-1**]  08:35 PM
                             [**2166-6-1**]  09:37 PM
                             [**2166-6-2**]  03:37 AM
                             [**2166-6-2**]  06:18 PM
                             [**2166-6-3**]  03:54 AM
   WBC
   18.5
   16.0
   24.8
   24.1
   Hct
   28.4
   27.3
   30.8
   31.2
   Plt
   177
   167
   176
   182
   Cr
   5.8
   5.9
   6.1
   6.1
   TCO2
   22
   21
   23
   24
   23
   24
   Glucose
   188
   212
   165
   202
   Other labs: PT / PTT / INR:15.5/38.8/1.4, CK / CKMB /
   Troponin-T:266/8/0.31, ALT / AST:51/32, Alk Phos / T Bili:254/0.8,
   Amylase / Lipase:76/28, Differential-Neuts:88.0 %, Band:4.0 %,
   Lymph:3.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:944 mg/dL, Lactic
   Acid:0.7 mmol/L, Albumin:2.2 g/dL, LDH:309 IU/L, Ca++:6.3 mg/dL,
   Mg++:3.2 mg/dL, PO4:8.1 mg/dL
   Micro
 [**5-29**] Biliary fluid with Enterococcus
   Assessment and Plan
   84 y/o male with CHF, prior admissions for urosepsis, VRE carrier who
   is admitted to MICU with rigors, fevers, tachycardia, tachypnea,
   emphysematous gall bladder.
   # Sepsis/leukocytosis
  abdominal CT showed air in gallbladder wall,
   bedside percutaneous gallbladder drain placed by IR [**5-29**]
   - MRCP showed collapsed gallbladder with drain inside - no surrounding
   fluid collections or ductal dilation
   - pt remains off pressors and not requiring fluid boluses; clinically
   improving.  WBC stable today.
   - currently on flagyl, dapto, cefepime (DAY 6)
 awaiting sensitivities
   but Enterococcus present
   - ID consult: cont dapto until sensitivity of Enterococcus determined;
   cont Abx until surgery
   - f/u cultures
 blood cx [**5-29**] growing GNR in one bottle, stool negative
   for campylobacter and c.diff, sputum cs contaminant, urine cx growing
   <[**Numeric Identifier 182**] organisms/ml
   - appreciate surgery recs
   - resent C diff toxin assay [**2166-6-2**].  Prior negative from [**2166-5-29**].
   # Respiratory Failure
   - oxygenating and ventilating well on PS 5/5.  RSBI 15.
   - off sedation and arousable
   - plan for extubation
   - not putting out much despite lasix gtt; will ask renal to do HD today
   vs. tomorrow (pressures can tolerate).
   # Acute on Chronic Renal Failure
   - Appreciate renal recommendations
   - Cr rising/stable, UOP 20-30 cc of urine per hr.  Suspect he has
   reached point of HD.
   - Continue to renally dose meds
   - Give pt aluminum hydroxide 30 TID and add PhosLo for
   hyperphosphatemia
   - will add 160 mg IV lasix and 500 mg diuril.
   - Will put in for tunneled HD line for tomorrow if he needs dialysis.
   # CHF
   -continue to monitor CXR and clinical exam for signs of fluid overload
   # BPH
   -hold tamsulosin, continue finasteride
   # DM2
   - hold glyburide, continue ISS
   # FEN: NPO, IV NS. Lytes prn. Hold TF for possible extubation today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2166-5-29**] 02:51 PM
   Arterial Line - [**2166-5-29**] 08:15 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: pantoprazole
   VAP: elevate HOB, mouth care
   Comments:
   Communication:  Comments: family
   Code status: Full code
   Disposition: ICU

2166-06-04 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -extubated
   -started on lasix (160) and diuril (500) - had good UOP
   -scheduled for dialysis catheter tomorrow afternoon (NPO pMN) -
   however, will not get catheter or be dialyzed if diureses well
   Allergies:
   Metoprolol
   Wheezing;
   Last dose of Antibiotics:
   Metronidazole - [**2166-6-1**] 08:00 AM
   Daptomycin - [**2166-6-2**] 11:00 AM
   Cefipime - [**2166-6-2**] 02:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2166-6-3**] 08:39 AM
   Heparin Sodium (Prophylaxis) - [**2166-6-3**] 04:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-6-4**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 78 (73 - 78) bpm
   BP: 148/61(93) {102/48(76) - 155/70(95)} mmHg
   RR: 22 (11 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 73 kg
   Height: 65 Inch
    CVP: 20 (7 - 22)mmHg
   Total In:
                                                                    998 mL
                                                                    154 mL
   PO:
   TF:
                                                                     78 mL
   IVF:
                                                                    640 mL
                                                                    154 mL
   Blood products:
   Total out:
                                                                  2,590 mL
                                                                  1,640 mL
   Urine:
                                                                  2,340 mL
                                                                  1,390 mL
   NG:
   Stool:
   Drains:
                                                                    250 mL
                                                                    250 mL
   Balance:
                                                                 -1,592 mL
                                                                 -1,486 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 742 (528 - 742) mL
   PS : 5 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.31/46/135/22/-3
   Ve: 5.6 L/min
   PaO2 / FiO2: 386
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   197 K/uL
   9.8 g/dL
   130 mg/dL
   6.1 mg/dL
   22 mEq/L
   3.9 mEq/L
   151 mg/dL
   106 mEq/L
   142 mEq/L
   32.0 %
   18.4 K/uL
        [image002.jpg]
                             [**2166-6-1**]  04:02 AM
                             [**2166-6-1**]  04:21 AM
                             [**2166-6-1**]  07:12 PM
                             [**2166-6-1**]  08:35 PM
                             [**2166-6-1**]  09:37 PM
                             [**2166-6-2**]  03:37 AM
                             [**2166-6-2**]  06:18 PM
                             [**2166-6-3**]  03:54 AM
                             [**2166-6-4**]  03:17 AM
                             [**2166-6-4**]  03:31 AM
   WBC
   16.0
   24.8
   24.1
   18.4
   Hct
   27.3
   30.8
   31.2
   32.0
   Plt
   167
   176
   182
   197
   Cr
   5.9
   6.1
   6.1
   6.1
   TCO2
   21
   23
   24
   23
   24
   24
   Glucose
   [**Telephone/Fax (3) 9535**]30
   Other labs: PT / PTT / INR:16.5/30.7/1.5, CK / CKMB /
   Troponin-T:266/8/0.31, ALT / AST:36/24, Alk Phos / T Bili:233/0.9,
   Amylase / Lipase:76/28, Differential-Neuts:88.0 %, Band:4.0 %,
   Lymph:3.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:944 mg/dL, Lactic
   Acid:0.7 mmol/L, Albumin:2.4 g/dL, LDH:293 IU/L, Ca++:6.0 mg/dL,
   Mg++:3.3 mg/dL, PO4:8.4 mg/dL
   Assessment and Plan
   84 y/o male with CHF, prior admissions for urosepsis, VRE carrier who
   is admitted to MICU with rigors, fevers, tachycardia, tachypnea,
   emphysematous gall bladder.
   # Sepsis/leukocytosis
  abdominal CT showed air in gallbladder wall,
   bedside percutaneous gallbladder drain placed by IR [**5-29**]
   - MRCP showed collapsed gallbladder with drain inside - no surrounding
   fluid collections or ductal dilation
   - pt remains off pressors and not requiring fluid boluses; clinically
   improving.  WBC stable today.
   - currently on flagyl, dapto, cefepime (DAY 6)
 awaiting sensitivities
   but Enterococcus present
   - ID consult: cont dapto until sensitivity of Enterococcus determined;
   cont Abx until surgery
   - f/u cultures
 blood cx [**5-29**] growing GNR in one bottle, stool negative
   for campylobacter and c.diff, sputum cs contaminant, urine cx growing
   <[**Numeric Identifier 182**] organisms/ml
   - appreciate surgery recs
   - resent C diff toxin assay [**2166-6-2**].  Prior negative from [**2166-5-29**].
   # Respiratory Failure
   - oxygenating and ventilating well on PS 5/5.  RSBI 15.
   - off sedation and arousable
   - plan for extubation
   - not putting out much despite lasix gtt; will ask renal to do HD today
   vs. tomorrow (pressures can tolerate).
   # Acute on Chronic Renal Failure
   - Appreciate renal recommendations
   - Cr rising/stable, UOP 20-30 cc of urine per hr.  Suspect he has
   reached point of HD.
   - Continue to renally dose meds
   - Give pt aluminum hydroxide 30 TID and add PhosLo for
   hyperphosphatemia
   - will add 160 mg IV lasix and 500 mg diuril.
   - Will put in for tunneled HD line for tomorrow if he needs dialysis.
   # CHF
   -continue to monitor CXR and clinical exam for signs of fluid overload
   # BPH
   -hold tamsulosin, continue finasteride
   # DM2
   - hold glyburide, continue ISS
   # FEN: NPO, IV NS. Lytes prn. Hold TF for possible extubation today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2166-5-29**] 02:51 PM
   Arterial Line - [**2166-5-29**] 08:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: